US08633207B2
To 2-[difluoro-(5-fluoro-pyridin-2-yl)-methyl]-8-methyl-3H-quinazolin-4-one (0.23 g, 0.76 mmol) were added DIEA (0.27 mL, 1.5 mmol) and POCl3 (5 mL, 55 mmol) and the mixture was heated at 115° C. for 6 h. The mixture was allowed to cool to rt and the mixture was concentrated under reduced pressure. The residue was treated with toluene and concentrated to dryness twice. The residue was partitioned between EtOAc (20 mL) and cold saturated aq NaHCO3 (10 mL). The separated EtOAc layer was diluted with of EtOAc (60 mL) and washed with saturated aq NaHCO3 (10 mL) and brine (10 mL×2), dried over MgSO4, filtered and concentrated under reduced pressure to afford 4-chloro-2-[difluoro-(5-fluoro-pyridin-2-yl)-methyl]-8-methyl-quinazoline as a brown viscous oil (242 mg, 99%).

reactant | 2-[difluoro-(5-fluoro-pyridin-2-yl)-methyl]-8-methyl-3H-quinazolin-4-one | 0.76 mmol, 0.23 g | FC(C1=NC2=C(C=CC=C2C(N1)=O)C)(C1=NC=C(C=C1)F)F | C15H10F3N3O
reactant | DIEA | 1.5 mmol, 0.27 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | POCl3 | 55 mmol, 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-[difluoro-(5-fluoro-pyridin-2-yl)-methyl]-8-methyl-quinazoline | 242 mg, 99% | ClC1=NC(=NC2=C(C=CC=C12)C)C(C1=NC=C(C=C1)F)(F)F | C15H9ClF3N3
